simulator lang=spectre
global 0
; NOTE: replace with your own PDK model file. Original: CSMC 0.18um, sm1816m50v13_usage.scs, section=tt_lib
include "/path/to/your/pdk/model.scs" section=tt_lib

subckt NMCNR VINN VINP VOUT IBIAS VDD VSS
NM7 (IBIASP IBIAS VSS VSS) mn18 w=1.964e-05 l=1.973e-06 m=36 //// Bias transistor
NM6 (net021 net028 VSS VSS) mn18 w=1.909e-05 l=8.097e-07 m=19 //// **Load** transistor, 2nd stage
NM5 (VOUT net021 VSS VSS) mn18 w=1.761e-05 l=1.623e-06 m=4 //// **Input** transistor, load(3rd) stage
NM4 (net028 net028 VSS VSS) mn18 w=1.414e-05 l=1.459e-06 m=3 //// **Load** transistor, 2nd stage
NM0 (net27 VINN net26 VSS) mn18 w=1.995e-05 l=1.109e-06 m=28 //// **Input** transistor, 1st stage ``NM1``
NM3 (IBIAS IBIAS VSS VSS) mn18 w=1.974e-05 l=5.657e-07 m=49 //// Bias transistor
NM2 (net26 IBIAS VSS VSS) mn18 w=1.986e-05 l=1.065e-06 m=17 //// Current tail transistor, 1st stage
NM1 (net28 VINP net26 VSS) mn18 w=1.995e-05 l=1.109e-06 m=28 //// **Input** transistor, 1st stage ``NM0``
PM5 (IBIASP IBIASP VDD VDD) mp18 w=1.802e-05 l=1.009e-06 m=6 //// Bias transistor
PM4 (net021 IBIASP VDD VDD) mp18 w=1.97e-05 l=1.853e-06 m=36 //// **Load** transistor, 2nd stage
PM3 (VOUT IBIASP VDD VDD) mp18 w=1.986e-05 l=9.117e-07 m=34 //// **Load** transistor, load(3rd) stage
PM2 (net028 net28 VDD VDD) mp18 w=1.92e-05 l=6.813e-07 m=23 //// **Input** transistor, 2nd stage
PM1 (net27 net27 VDD VDD) mp18 w=1.938e-05 l=1.804e-06 m=31 //// **Load** transistor, 1st stage ``PM0``
PM0 (net28 net27 VDD VDD) mp18 w=1.938e-05 l=1.804e-06 m=31 //// **Load** transistor, 1st stage ``PM1``
C1 (net021 net027) capacitor c=2.006e-12 m=1 //// Miller cap 1
C0 (net28 net027) capacitor c=2.976e-12 m=1 //// Miller cap 2
R0 (net027 VOUT) resistor r=3890.0 m=1 //// Nulling resistor
ends NMCNR



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=5e-11
            I0 (VDD IBIAS) isource dc=3e-07 type=dc
            I1 (VOUT VINP VOUT IBIAS VDD VSS) NMCNR
            V2 (VINP 0) vsource type=pulse val0=1.2 val1=0.6 period=2e-05 rise=1p fall=1p
        